US06812237B2
To a solution of D-3-methylphenylalanine.HCl (5.5 g, 25.5 mmol) and acetic acid (13.0 mL) in 0.04 M aqueous sodium acetate (750 mL) is added a solution of sodium nitrite (5.28 g, 76.5 mmol) in water (12.5 mL) dropwise, over 30 min, and the solution is allowed to stir for 3 h. This solution is then saturated with NaCl, and extracted with EtOAc (3×150 mL). The combined organic layers are washed with brine (3×150 mL), dried (MgSO4) and evaporated to yield (R)-2-hydroxy-3-(3-methylphenyl)-propionic acid.

reactant | D-3-methylphenylalanine | CC1=CC(=CC=C1)C[C@H](C(=O)O)N | C10H13NO2
reactant | HCl | 25.5 mmol, 5.5 g | Cl | ClH
reactant | acetic acid | 13.0 mL | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 76.5 mmol, 5.28 g | N(=O)[O-].[Na+]
solvent | sodium acetate | 0.04 M, 750 mL | C(C)(=O)[O-].[Na+]
solvent | water | 12.5 mL | O | H2O
product | (R)-2-hydroxy-3-(3-methylphenyl)-propionic acid | O[C@@H](C(=O)O)CC1=CC(=CC=C1)C | C10H12O3
